US06844347B1
2-(4-Chlorophenyl)-6isopropyl-4-((2,2,6,6-tetramethylpiperidin-4-yl)amino)-pyrimidine dihydrochloride
A mixture of 534 mg of 4-chloro-2-(4-chlorophenyl)-6-isopropylpyrimidine and 1.8 g of 4-amino-2,2,6,6-tetramethylpiperidine was heated at 150° C. for 2 hours with stirring. After cooling, 20 ml of water were added and the mixture was stirred at room temperature. The white precipitate was filtered off with suction, dried in vacuo and taken up in 20 ml of ethyl acetate. By addition of hydrogen chloride, the title compound was precipitated, filtered off with suction and dried in vacuo. Yield: 0.8 g.

reactant | 4-chloro-2-(4-chlorophenyl)-6-isopropylpyrimidine | 534 mg | ClC1=NC(=NC(=C1)C(C)C)C1=CC=C(C=C1)Cl | C13H12Cl2N2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | 1.8 g | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
solvent | water | 20 ml | O | H2O
product | 2-(4-Chlorophenyl)-6isopropyl-4-((2,2,6,6-tetramethylpiperidin-4-yl)amino)-pyrimidine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)C1=NC(=CC(=N1)NC1CC(NC(C1)(C)C)(C)C)C(C)C | InChI=1S/C22H31ClN4.2ClH/c1-14(2)18-11-19(24-17-12-21(3,4)27-22(5,6)13-17)26-20(25-18)15-7-9-16(23)10-8-15;;/h7-11,14,17,27H,12-13H2,1-6H3,(H,24,25,26);2*1H
